US09334279B2
To a two dram vial equipped with a stir bar was added 4-bromo-2-fluoropyridine (132 mg, 0.75 mmol) and Pd(dppf)Cl2 (28 mg, 0.038 mmol). The vial was sealed with a septum screwcap and was then placed under N2 atm. To the vial was added thiazol-2-ylzinc(II) bromide in THF (3.0 mL, 1.5 mmol). The vial was placed in a 60° C. heating block with stirring for 3.5 h. The reaction solution was transfered to a 125 mL reparatory funnel and was diluted with EtOAc (50 mL). The solution was washed with water:brine (25 mL:25 mL); then brine (50 mL). The organic solution was dried over MgSO4; filtered; then concentrated in vacuo. The residue was subjected to silica gel chromatography using hexanes:EtOAc to afford 2-(2-fluoropyridin-4-yl)thiazole as a white solid, 83 mg (61%). 1H-NMR (400 MHz, CDCl3) δ 8.32 (d, J=5.3 Hz, 1H), 8.00 (d, J=3.3 Hz, 1H), 7.73 (dt, J=5.3, 1.6 Hz, 1H), 7.53 (d, J=3.3 Hz, 1H), 7.51-7.50 (m, 1H).

reactant | 4-bromo-2-fluoropyridine | 0.75 mmol, 132 mg | BrC1=CC(=NC=C1)F | C5H3BrFN
reactant | thiazol-2-ylzinc(II) bromide | [Br-].S1C(=NC=C1)[Zn+]
reactant | THF | 1.5 mmol, 3.0 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.038 mmol, 28 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(2-fluoropyridin-4-yl)thiazole | FC1=NC=CC(=C1)C=1SC=CN1 | C8H5FN2S
